US07060827B2
2,4-Dichloro-5-fluoropyrimidine (50 mg, 0.30 mmol) was dissolved in a mixture of MeOH (1 ml) and H2O (0.1 ml). 3-cyano-4-hydroxyaniline (241 mg, 1.8 mmol) was added and the mixture was refluxed for 2 days (70° C. oil-bath temperature). The mixture was cooled to 22° C., concentrated to dryness under reduced pressure and subjected to column chromatography on silica gel (CHCl3-Acetone, 9:1) to give N2,N4-bis(4-hydroxy-3-cyanophenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.96 (d, 1H, J=3.5 Hz), 7.82 (d, 1H, J=3.0 Hz), 7.79 (d, 1H, J=3.0 Hz), 7.71 (dd, 1H, J=3.0, 8.8 Hz), 7.54 (dd, J=3.0, 8.8 Hz), 6.94 (d, 1H, J=8.8 Hz), 6.84 (d, 1H, J=8.8 Hz); LCMS: purity: 97.2%; MS (m/e): 362.98 (M+, 100).

reactant | 2,4-Dichloro-5-fluoropyrimidine | 0.30 mmol, 50 mg | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-cyano-4-hydroxyaniline | 1.8 mmol, 241 mg | C(#N)C=1C=C(N)C=CC1O | C7H6N2O
solvent | MeOH | 1 ml | CO | CH4O
solvent | H2O | 0.1 ml | O | H2O
product | N2,N4-bis(4-hydroxy-3-cyanophenyl)-5-fluoro-2,4-pyrimidinediamine | OC1=C(C=C(C=C1)NC1=NC=C(C(=N1)NC1=CC(=C(C=C1)O)C#N)F)C#N | C18H11FN6O2
